US05247117
Trichlorosilane and allyl chloride were subjected to hydrosilylation reaction in a solvent in the presence of a platinum catalyst, followed by esterification reaction with methanol and urea and further by distillation to obtain γ-chloropropyltrimethoxysilane. The thus obtained γ-chloropropyltrimethoxysilane and potassium acrylate were subjected to desalting in a solvent, followed by removal of potassium chloride. Subsequently, low boiling components including the solvent were distilled off under reduced pressure to obtain crude γ-acryloxypropyltrimethoxysilane having a purity of approximately 90%.

reactant | γ-chloropropyltrimethoxysilane | ClCCC[Si](OC)(OC)OC | C6H15ClO3Si
reactant | potassium acrylate | C(C=C)(=O)[O-].[K+]
product | γ-acryloxypropyltrimethoxysilane | C(C=C)(=O)OCCC[Si](OC)(OC)OC | C9H18O5Si
